US07598257B2
Diethyl 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanedioate, prepared substantially as described in Example 407 (0.80 g, 0.0016 mol), was dissolved in THF (40 mL, 0.49 mol) and cooled in an ice bath under a nitrogen atmosphere. To this mixture, 1.0 M lithium tetrahydroaluminate in THF (3.2 mL) was added slowly. The reaction was stirred for 1 h, quenched with ice and partitioned between ethyl acetate and 1 N HCl. The organic layer was washed with brine, dried over magnesium sulfate and concentrated to give an amber oil. The product was purified by FCC on silica gel eluting with an ethyl acetate:methanol gradient to give 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentane-1,5-diol as a clear viscous oil (0.51 gm, 76%), LC/MS (M+H)+: 418, 1H NMR (DMSO-d6) δ 8.85(s, 1H), 8.41 (s, 1H), 8.37 (s, 1H), 7.45 (d, 1H), 6.83 (d, 1H), 5.73 (s, 2H), 4.91 (m, 1H), 3.75 (m, 2H), 3.59 (m, 2H), 3.45 (m, 2H), 2.18 (m, 4H), 0.95 (m, 2H), 0.1 (s, 9H).

reactant | Diethyl 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanedioate | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C(CC(=O)OCC)CC(=O)OCC)(C)C | C24H35N5O5Si
reactant | lithium tetrahydroaluminate | 1.0 M | [AlH4-].[Li+]
solvent | THF | 3.2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.49 mol, 40 mL | C1CCOC1 | C4H8O
product | 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentane-1,5-diol | 0.51 gm, 76% | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C(CCO)CCO)(C)C | C20H31N5O3Si
